US07205291B2
To a solution of 4-nitrobenzyl (5R,6S)-3-{4-[(aminocarbonyl)oxy]phenyl}-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (110 mg) prepared in the above step in THF (1.9 ml) was added under ice cooling acetic acid (11 mg). Then 1M tetrabutylammonium fluoride/THF solution (0.19 ml) was dropped thereto and the mixture was stirred at the same temperature for 45 minutes. The residue prepared by the same manner as step a) of example 11 was purified by silica gel thin-layer chromatography (chloroform/acetone=2/1) to give 4-nitrobenzyl (5R,6S)-3-{4-[(aminocarbonyl)oxy]phenyl}-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (11 mg).

reactant | 4-nitrobenzyl (5R,6S)-3-{4-[(aminocarbonyl)oxy]phenyl}-6-{(1R)-1-[(triethylsilyl)oxy]ethyl}-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 110 mg | NC(=O)OC1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](CC)(CC)CC)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H35N3O8Si
reactant | acetic acid | 11 mg | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride THF | 1M, 0.19 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
solvent | THF | 1.9 ml | C1CCOC1 | C4H8O
product | 4-nitrobenzyl (5R,6S)-3-{4-[(aminocarbonyl)oxy]phenyl}-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 11 mg | NC(=O)OC1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H21N3O8
